US07989454B2
5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid
5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester (7.0 g) was dissolved in a mixture of TFA and dichloromethane (1:1, 80 mL) and stirred at room temperature for 1 h. The solvents were removed under reduced pressure and the crude material was purified on a silica gel column using ethyl acetate and hexanes to yield the title compound (5.9 g, 90% yield).

reactant | 5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid tert-butyl ester | 7.0 g | C(C)(C)(C)OC(=O)C=1C=C(C=C(C1)OCCCCCCC1=C(C(=CC=C1)OCCCC(=O)OCC)CCC(=O)OCC)C1=CC(=CC=C1)F | C40H51FO8
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 5-{6-[2-(2-Ethoxycarbonyl-ethyl)-3-(3-ethoxycarbonyl-propoxy)-phenyl]-hexyloxy}-3′-fluoro-biphenyl-3-carboxylic acid | 5.9 g, 90% yield | C(C)OC(=O)CCC1=C(C=CC=C1OCCCC(=O)OCC)CCCCCCOC=1C=C(C=C(C1)C1=CC(=CC=C1)F)C(=O)O | C36H43FO8
